US07754742B2
1-(2,4-Bis-benzyloxy-3-iodo-phenyl)-3-methyl-butan-1-one
Add benzyl bromide (17.63 g, 103.1 mmol, 12.3 mL) and cesium carbonate (30.53 g, 93.7 mmol) to a solution of 1-(2,4-dihydroxy-3-iodo-phenyl)-3-methyl-butan-1-one (15.00 g, 46.9 mmol) in anhydrous dimethylformamide (120 mL) at room temperature under Argon gas. Stir the reaction at room temperature overnight. Filter the mixture and concentrate the filtrate under reduced pressure to an oil. Partition the oil between ether and water. Separate the organic layer and extract the aqueous layer with ether (2×). Combine the organic layers, wash with brine, dry over sodium sulfate, filter and concentrate to provide a redish oil (22.5 g, 45 mmol, 96% yield). MS (m/z): 501 (M+1).

reactant | benzyl bromide | 103.1 mmol, 12.3 mL, 17.63 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 93.7 mmol, 30.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2,4-dihydroxy-3-iodo-phenyl)-3-methyl-butan-1-one | 46.9 mmol, 15.00 g | OC1=C(C=CC(=C1I)O)C(CC(C)C)=O | C11H13IO3
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 1-(2,4-Bis-benzyloxy-3-iodo-phenyl)-3-methyl-butan-1-one | 45 mmol, 22.5 g, 96% yield | C(C1=CC=CC=C1)OC1=C(C=CC(=C1I)OCC1=CC=CC=C1)C(CC(C)C)=O | C25H25IO3
